US07915424B2
3-(4-Fluoro-3-trifluoromethylphenylethynyl)-5-methoxypyridine
Dissolve 1-fluoro-4-iodo-2-trifluoromethylbenzene (813 mg, 2.8 mmol) in triethylamine (6 mL). Add 3-ethynyl-5-methoxypyridine, (prepared as described in PREPARATION 10), (400 mg, 3.0 mmol) followed by bis(triphenylphosphine)palladium (II) dichloride (0.100 g, 0.14 mmol) and copper (I) iodide (53 mg, 0.28 mmol). Heat at 70° C. for 16 h, concentrate, and purify using silica gel chromatography, eluting with 100:0 to 90:10 methylene chloride:ethyl acetate, to give the title compound as a pale yellow solid (820 mg, 99%).

reactant | 1-fluoro-4-iodo-2-trifluoromethylbenzene | 2.8 mmol, 813 mg | FC1=C(C=C(C=C1)I)C(F)(F)F | C7H3F4I
reactant | 3-ethynyl-5-methoxypyridine | 3.0 mmol, 400 mg | C(#C)C=1C=NC=C(C1)OC | C8H7NO
solvent | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.14 mmol, 0.100 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.28 mmol, 53 mg | [Cu]I
product | 3-(4-Fluoro-3-trifluoromethylphenylethynyl)-5-methoxypyridine | 820 mg, 99% | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C1)OC)C(F)(F)F | C15H9F4NO
